US04421749
In a manner analogous to that described in Example 1, 17.5 g of triisobutylaluminum and 30 g of 2-phenyl-phenol are reacted to give bis(2-biphenylyloxy)isobutylaluminum and this is then reacted with 11.2 g of pyridine-N-oxide-2-thiol to give the title compound. The isolation of the product is carried out in an analogous manner. The yield of bis-(2-biphenylyloxy)(2-pyridinethiolato)aluminum N-oxide is 30.25 g, about 69.9% of theory, of a white finely granular powder with a melting point of 219°-221° C.

reactant | triisobutylaluminum | 17.5 g | C(C(C)C)[Al](CC(C)C)CC(C)C
reactant | 2-phenyl-phenol | 30 g | C1(=CC=CC=C1)C1=C(C=CC=C1)O | C12H10O
product | bis(2-biphenylyloxy)isobutylaluminum | C1(=C(C=CC=C1)O[Al](CC(C)C)OC1=C(C=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/2C12H10O.C4H9.Al/c2*13-12-9-5-4-8-11(12)10-6-2-1-3-7-10;1-4(2)3;/h2*1-9,13H;4H,1H2,2-3H3;/q;;;+2/p-2
